US06025375
A 1.5 M solution of lithium diisopropylamide mono(tetrahydrofuran) in cyclohexane (19.9 ml) was added dropwise to a stirred solution of 4,5-diphenyloxazole (6.0 g) in tetrahydrofuran (36 ml) and diethyl ether (18 ml) under dry ice--carbon tetrachloride cooling and the mixture was stirred at the same temperature for a while and at 0° C. for a while. A solution of 2-[(3-methoxyphenyl)methyl]cyclohexanone (5.92 g) in tetrahydrofuran (16 ml) was added to the reaction mixture under dry ice-acetone cooling, and the resulting mixture was stirred at the same temperature for several hours. Then the reaction temperature was allowed to rise gradually to room temperature and the reaction mixture was allowed to stand at room temperature overnight. The mixture was treated with ammonium chloride aqueous solution and partitioned between ethyl acetate and 1N hydrochloric acid. The ethyl acetate layer was separated and washed successively with 1N hydrochloric acid (twice), sodium bicarbonate aqueous solution, and brine, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was chromatographed (n-hexane - ethyl acetate (10:1)) over silica gel. The first eluate afforded 2-[(1RS,2RS)-1-hydroxy-2-[(3-methoxyphenyl)methyl]-cyclohexyl]-4,5-diphenyloxazole (4.48 g) as pale yellow paste.

reactant | lithium diisopropylamide mono(tetrahydrofuran) | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 4,5-diphenyloxazole | 6.0 g | C1(=CC=CC=C1)C=1N=COC1C1=CC=CC=C1 | C15H11NO
reactant | 2-[(3-methoxyphenyl)methyl]cyclohexanone | 5.92 g | COC=1C=C(C=CC1)CC1C(CCCC1)=O | C14H18O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | cyclohexane | 19.9 ml | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[(1RS,2RS)-1-hydroxy-2-[(3-methoxyphenyl)methyl]-cyclohexyl]-4,5-diphenyloxazole | 4.48 g | OC1(C(CCCC1)CC1=CC(=CC=C1)OC)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NO3
